US09062070B2
Methyl 2-amino-5,6,7,8-tetrahydroquinoline-5-carboxylate (850 mg, 4.12 mmol) was stirred in acetic acid (15 mL) and tri-ethyl orthoformate (1.373 mL, 8.24 mmol) followed by sodium azide (482 mg, 7.42 mmol) then heated to 80° C. for 3 hrs. The reaction was cooled and evaporated to dryness. The mixture was taken up in DCM and washed with saturated NaHCO3 solution, then with brine. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. The residue was chromatographed through a 40 g ISCO Redi-sep column and eluted with ethyl acetate:hexane (2:3) to yield methyl 2-(1H-tetrazol-1-yl)-5,6,7,8-tetrahydroquinoline-5-carboxylate.

reactant | Methyl 2-amino-5,6,7,8-tetrahydroquinoline-5-carboxylate | 4.12 mmol, 850 mg | NC1=NC=2CCCC(C2C=C1)C(=O)OC | C11H14N2O2
reactant | tri-ethyl orthoformate | 8.24 mmol, 1.373 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | sodium azide | 7.42 mmol, 482 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | methyl 2-(1H-tetrazol-1-yl)-5,6,7,8-tetrahydroquinoline-5-carboxylate | N1(N=NN=C1)C1=NC=2CCCC(C2C=C1)C(=O)OC | C12H13N5O2
